US04720493
To a solution of 5.4 g of 3,4,5-trimethoxybenzoate in 100 ml of chloroform is added 4.0 g of 2-amino-4-(5-aminomethyl-2-thienyl)thiazole under cooling with ice at -5° C. to 0° C., and stirred at 15° C. to 25° C. for 4 hours. After the resulting mixture is cooled with ice, the precipitated crystals are collected by filtration and recrystallized from methanol to give 2-amino-4-[5-(3,4,5-trimethoxybenzoylaminomethyl)-2-thienyl]thiazole, melting at 217° C. with decomposition.

reactant | 3,4,5-trimethoxybenzoate | 5.4 g | COC=1C=C(C(=O)[O-])C=C(C1OC)OC
reactant | 2-amino-4-(5-aminomethyl-2-thienyl)thiazole | 4.0 g | NC=1SC=C(N1)C=1SC(=CC1)CN | C8H9N3S2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-4-[5-(3,4,5-trimethoxybenzoylaminomethyl)-2-thienyl]thiazole | NC=1SC=C(N1)C=1SC(=CC1)CNC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C18H19N3O4S2
